US08431695B2
Preparation of 1-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazine-7-carbonyl]-pyrrolidin-1-yl}-ethanone
[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-pyrrolidin-3-yl-methanone hydrochloride salt (80 mg, 0.17 mmol) was dissolved in CH3CN/MeOH (1:1, 2 mL) and 2N Na2CO3 (0.84 mL, 1.68 mmol) was added, followed by acetyl chloride (0.013 mL, 0.19 mmol). The resulting mixture was stirred at rt for 12 h. The mixture was concentrated, diluted with EtOAc and layers were separated. The organic layer was washed with brine and concentrated. The residue was purified by short silica-gel column eluting with EtOAc, then 10% MeOH in EtOAc to give 39 mg (48%) of the desired product. 1H-NMR (CD3OD-d4) 8.39-8.35 (m, 1H), 8.03 (d, 1H), 7.81 (dt, 1H), 7.69-7.67 (m, 1 H), 7.47 (d, 1H), 7.37-7.27, (m, 5 H), 7.19 (fit, 1 H), 5.64 (s, 1 H), 4.53-4.38 (m, 1 H), 3.92-3.72 (m, 2 H), 3.62 (t, 1H), 3.52 (t, 1 H), 2.38-2.07 (m, 2 H), 2.10 (d, 3 H); LC-MS [M+H]+=480.1, RT=2.64 min.

reactant | [4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-pyrrolidin-3-yl-methanone hydrochloride salt | 0.17 mmol, 80 mg | Cl.NC1=NC=NN2C1=C(C=C2C(=O)C2CNCC2)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2
reactant | Na2CO3 | 1.68 mmol, 2N, 0.84 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetyl chloride | 0.19 mmol, 0.013 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH3CN MeOH | 2 mL | CC#N.CO
product | 1-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazine-7-carbonyl]-pyrrolidin-1-yl}-ethanone | 39 mg, 48% | NC1=NC=NN2C1=C(C=C2C(=O)C2CN(CC2)C(C)=O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H25N7O2
